US08629270B2
N-[[1-Allyl-3-(5-fluoro-2-thienyl)-4-(hydroxymethyl)pyrrolidin-3-yl]carbamothioyl]benzamide
To N-[5-allyl-6a-(5-fluoro-2-thienyl)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-1-carbothioyl]benzamide (6.91 g, 16.5 mmol) is added acetic acid (110 mL) followed by powdered zinc (10.8 g). The resulting gray mixture is rapidly stirred at room temperature for 40 minutes. The mixture is filtered through diatomaceous earth while rinsing with methanol (approximately 250 mL). The filtrate is concentrated under reduced pressure, diluted with methanol (200 mL), and concentrated under reduced pressure. The residue is dissolved in dichloromethane (300 mL) and treated with 1 M potassium carbonate solution (200 mL). The resulting emulsion is filtered through diatomaceous earth while rinsing with water (approximately 40 mL) and dichloromethane (200 mL). The phases are separated and the aqueous phase is further extracted with dichloromethane (100 mL). The combined dichloromethane extracts are dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound (6.65 g, 96%). ES/MS (m/e): 420 (M+H).

reactant | N-[5-allyl-6a-(5-fluoro-2-thienyl)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-1-carbothioyl]benzamide | 16.5 mmol, 6.91 g | C(C=C)N1CC2(N(OCC2C1)C(=S)NC(C1=CC=CC=C1)=O)C=1SC(=CC1)F | C20H20FN3O2S2
catalyst | zinc | 10.8 g | [Zn] | Zn
solvent | acetic acid | 110 mL | C(C)(=O)O | C2H4O2
product | N-[[1-Allyl-3-(5-fluoro-2-thienyl)-4-(hydroxymethyl)pyrrolidin-3-yl]carbamothioyl]benzamide | 6.65 g, 96% | C(C=C)N1CC(C(C1)CO)(C=1SC(=CC1)F)NC(=S)NC(C1=CC=CC=C1)=O | C20H22FN3O2S2
